US08076478B2
(2) Synthesis of N,N-bis(3-aminopropyl)benzylamine
8.53 g of N,N-bis(2-cyanoethyl)benzylamine, 0.72 g of Raney Co and 100 mL of methanol were charged in an autoclave and a hydrogenation reaction was carried out at an initial hydrogen pressure of 9.0 MPa at 100° C. for 1 hour. After the catalyst was removed by filtration, the obtained filtrate was concentrated to dryness to give 8.69 g of the title compound as a pale yellow oil.

reactant | N,N-bis(2-cyanoethyl)benzylamine | 8.53 g | C(#N)CCN(CCC#N)CC1=CC=CC=C1 | C13H15N3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 100 mL | CO | CH4O
product | N,N-bis(3-aminopropyl)benzylamine | 8.69 g | NCCCN(CCCN)CC1=CC=CC=C1 | C13H23N3
